US04284641
1-Cycloheptylimidazole
Cycloheptyl bromide (10.0 g, 0.0565 mole) was added dropwise to a refluxing mixture of imidazole (385 g, 0.0565 mole) and sodium bicarbonate (4.75 g, 0.0565 mole) im methanol (100 ml). After addition was complete the mixture was heated under reflux for a further 24 hours.

reactant | Cycloheptyl bromide | 0.0565 mole, 10.0 g | C1(CCCCCC1)Br | C7H13Br
reactant | imidazole | 0.0565 mole, 385 g | N1C=NC=C1 | C3H4N2
reactant | sodium bicarbonate | 0.0565 mole, 4.75 g | C([O-])(O)=O.[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 1-Cycloheptylimidazole | C1(CCCCCC1)N1C=NC=C1 | C10H16N2
